US07276612B2
A solution of 4-{2-[(3-bromomethylbenzofuran-2-carbonyl)amino]ethoxy}-benzoic acid methyl ester (0.340 mol) in chlorobenzene (200 ml) and dichloromethane (800 ml) was added dropwise to a 0-5° C. solution of 2M dimethylamine in tetrahydrofuran (510 ml, 1.022 mol) over 30 minutes with the temperature below 20° C. The resulting mixture was stirred for one hour and allowed to warm to ambient temperature. After completion of reaction, the reaction mixture was washed with 5% potassium carbonate and water. Solvent was distilled at atmospheric pressure until the pot temperature reached 100° C. After cooling to ˜50° C., acetonitrile (400 ml) and ethyl Acetate (400 ml) were added to the pot. The reaction mixture was heated to reflux until all solids dissolved. The reaction mixture was allowed to cool to give 4-{2-[(3-dimethylaminomethyl-benzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester (76.6 g) as an off white powder.

reactant | 4-{2-[(3-bromomethylbenzofuran-2-carbonyl)amino]ethoxy}-benzoic acid methyl ester | 0.340 mol | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1CBr)C=CC=C2)=O | C20H18BrNO5
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | tetrahydrofuran | 1.022 mol, 510 ml | O1CCCC1 | C4H8O
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 4-{2-[(3-dimethylaminomethyl-benzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester | 76.6 g | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1CN(C)C)C=CC=C2)=O | C22H24N2O5
